US07495004B2
8-Bromo-7-(2-chloro-6-fluorobenzyl)-3-methyl-3,7-dihydro-1H-purine-2,6-dione
A solution of 3-methyl-8-bromoxanthine (1.5 g, 6.1 mmol, Klein, J. P. PCT Int. Appl. WO 0061583, 2000) and K2CO3 (0.84 g, 6.1 mmol) in 6 mL DMF was treated with 2-chloro-6-fluorobenzyl bromide. The reaction mixture was heated to 60° C. for 2 hr, cooled, and poured onto ice water. The solid precipitate was filtered and dried to yield 1.8 g (76% yield) of a white solid: 1H NMR (DMSO, 400 MHz) 7.43-7.36 (m, 1H), 7.34-7.30 (m, 1H), 7.22-7.15 (m, 1H), 5.67 (s, 2H), 3.29 (s, 3H); MS (AP+) m/e 389 (MH+).

reactant | 3-methyl-8-bromoxanthine | 6.1 mmol, 1.5 g | CN1C(NC(C=2NC(=NC12)Br)=O)=O | C6H5BrN4O2
reactant | K2CO3 | 6.1 mmol, 0.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-6-fluorobenzyl bromide | ClC1=C(CBr)C(=CC=C1)F | C7H5BrClF
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 8-Bromo-7-(2-chloro-6-fluorobenzyl)-3-methyl-3,7-dihydro-1H-purine-2,6-dione | 1.8 g, 76% yield | BrC1=NC=2N(C(NC(C2N1CC1=C(C=CC=C1F)Cl)=O)=O)C | C13H9BrClFN4O2
